US05271864
2-{4'-[(4-pentyl-3-cyclohexenyl)-carbonyloxy]-phenyl}-5-decylpyrimidine is synthesized as follows. Tetrahydrofuran (35 carboxyl chloride (2.3 g) and 5-decyl-2-(4'-hydroxyphenyl)-pyrimidine (3.66 g). The reaction mixture is stirred until homogenous, then triethylamine (2.5 ml) is added. The reaction mixture immediately turns turbid. The turbid solution is stirred 1 hour, poured into a dilute (5%) hydrochloric acid solution, and extracted with ethyl acetate. The combined organic layers are then extracted with saturated sodium chloride, dried over sodium sulfate, and the solvent removed in vacuo. The product is purified by flash chromatography using 10% ethyl acetate in hexane as the eluent, and recrystallized from acetonitrile to produce the product, 2-{4'-[(4-pentyl-3-cyclohexenyl)-carbonyloxy]-phenyl)-5-decylpyrimidine.

reactant | Tetrahydrofuran | O1CCCC1 | C4H8O
reactant | 5-decyl-2-(4'-hydroxyphenyl)-pyrimidine | 3.66 g | C(CCCCCCCCC)C=1C=NC(=NC1)C1=CC=C(C=C1)O | C20H28N2O
reactant | hydrochloric acid | Cl | ClH
solvent | triethylamine | 2.5 ml | C(C)N(CC)CC | C6H15N
product | 2-{4'-[(4-pentyl-3-cyclohexenyl)-carbonyloxy]-phenyl)-5-decylpyrimidine | C(CCCC)C1=CCC(CC1)C(=O)OC1=CC=C(C=C1)C1=NC=C(C=N1)CCCCCCCCCC | C32H46N2O2
